US07211694B2
(1H-Indol-3-yl)-acetic acid 4-dimethylamino-4-phenyl-cyclohexyl ester hydrochloride, non-polar and polar diastereoisomer
175 mg of (1H-indol-3-yl)-acetic acid and 219 mg of 4-dimethylamino-4-phenyl-cyclohexanol (mixture of diastereoisomers analogously to Example 4) were added, under argon and while cooling with ice, to a mixture of 5 ml of dry dichloromethane and 5 ml of dry THF with 206 mg of dicyclohexylcarbodiimide and 12 mg of 4-dimethylaminopyridine, and stirring was carried out overnight. The resulting solid was filtered and washed with a small amount of diethyl ether. The resulting filtrate was concentrated and the residue was stirred for five minutes with a mixture of 10 ml of each of two molar sodium hydrogen carbonate solution and ethyl acetate. The phases were separated, the aqueous phase was extracted three times using 10 ml of ethyl acetate each time, and the combined organic phases were washed with 10 ml of water, dried over sodium sulfate and concentrated. The residue obtained was a mixture of the two possible diastereoisomeric esters, which were separated by chromatography on silica gel with methanol. 60 mg of the non-polar and 108 mg of the polar diastereoisomer were obtained in the form of colourless oils which, as described for Example 1, were converted into 65 mg (Example 13) and 118 mg (Example 14) of the corresponding hydrochlorides using chlorotrimethylsilane and water in 2-butanone.

reactant | (1H-indol-3-yl)-acetic acid | 175 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 4-dimethylamino-4-phenyl-cyclohexanol | 219 mg | CN(C1(CCC(CC1)O)C1=CC=CC=C1)C | C14H21NO
reactant | dicyclohexylcarbodiimide | 206 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
catalyst | 4-dimethylaminopyridine | 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1H-Indol-3-yl)-acetic acid 4-dimethylamino-4-phenyl-cyclohexyl ester hydrochloride | Cl.CN(C1(CCC(CC1)OC(CC1=CNC2=CC=CC=C12)=O)C1=CC=CC=C1)C | InChI=1S/C24H28N2O2.ClH/c1-26(2)24(19-8-4-3-5-9-19)14-12-20(13-15-24)28-23(27)16-18-17-25-22-11-7-6-10-21(18)22;/h3-11,17,20,25H,12-16H2,1-2H3;1H
